* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0025224830921101037
Fd1_1 0 s1 V1 -0.1261241546055052
Gr1_1_1 0 s1 x1_a1 0 7540868672406.825
Gr2_re_1_1 0 s1 x2_re_a1 0 -872445435944.144
Gr2_im_1_1 0 s1 x2_im_a1 0 1049363506509.4948
Gr3_re_1_1 0 s1 x3_re_a1 0 20280171527161.043
Gr3_im_1_1 0 s1 x3_im_a1 0 15028124676008.605
Gr4_1_1 0 s1 x4_a1 0 -120299510259472.95
Gr5_1_1 0 s1 x5_a1 0 -346364043263588.0
Gr6_1_1 0 s1 x6_a1 0 379590118954506.9
Gr7_1_1 0 s1 x7_a1 0 40719407981584.53
Gd1_2 0 s1 p2 0 0.023090182287754064
Fd1_2 0 s1 V2 1.1545091143877033
Gr1_1_2 0 s1 x1_a2 0 -15143819313552.762
Gr2_re_1_2 0 s1 x2_re_a2 0 1758057006999.347
Gr2_im_1_2 0 s1 x2_im_a2 0 -2108957608187.3933
Gr3_re_1_2 0 s1 x3_re_a2 0 -40666069511826.99
Gr3_im_1_2 0 s1 x3_im_a2 0 -30228346752881.582
Gr4_1_2 0 s1 x4_a2 0 241580952012919.22
Gr5_1_2 0 s1 x5_a2 0 697130442404620.1
Gr6_1_2 0 s1 x6_a2 0 -763788693912651.2
Gr7_1_2 0 s1 x7_a2 0 -81988402389576.56
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 4.0479065639897114e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.0078175404975019e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 17192003254.151524
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -17192003254.151524
Rp2_im_im_a1 0 x2_im_a1 1.0078175404975019e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.1732717291200519e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 8173175066.044904
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -8173175066.044904
Rp3_im_im_a1 0 x3_im_a1 1.1732717291200519e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.0418876116918662e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 6.333423171167946e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 4.296506716773412e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.6680631417512316e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.023090182287754064
Fd2_1 0 s2 V1 1.1545091143877033
Gr1_2_1 0 s2 x1_a1 0 -15143819313493.828
Gr2_re_2_1 0 s2 x2_re_a1 0 1758057006989.2004
Gr2_im_2_1 0 s2 x2_im_a1 0 -2108957608175.621
Gr3_re_2_1 0 s2 x3_re_a1 0 -40666069511635.34
Gr3_im_2_1 0 s2 x3_im_a1 0 -30228346752754.21
Gr4_2_1 0 s2 x4_a1 0 241580952011894.2
Gr5_2_1 0 s2 x5_a1 0 697130442402029.8
Gr6_2_1 0 s2 x6_a1 0 -763788693909753.0
Gr7_2_1 0 s2 x7_a1 0 -81988402389281.3
Gd2_2 0 s2 p2 0 -0.002323665591110495
Fd2_2 0 s2 V2 -0.11618327955552477
Gr1_2_2 0 s2 x1_a2 0 7407313871345.106
Gr2_re_2_2 0 s2 x2_re_a2 0 -857062588155.2592
Gr2_im_2_2 0 s2 x2_im_a2 0 1030447042604.5308
Gr3_re_2_2 0 s2 x3_re_a2 0 19921178414468.52
Gr3_im_2_2 0 s2 x3_im_a2 0 14765092636632.29
Gr4_2_2 0 s2 x4_a2 0 -118180207641566.1
Gr5_2_2 0 s2 x5_a2 0 -340295234922645.25
Gr6_2_2 0 s2 x6_a2 0 372935520587926.7
Gr7_2_2 0 s2 x7_a2 0 40006449909401.84
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 4.0479065639897114e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.0078175404975019e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 17192003254.151524
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -17192003254.151524
Rp2_im_im_a2 0 x2_im_a2 1.0078175404975019e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.1732717291200519e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 8173175066.044904
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -8173175066.044904
Rp3_im_im_a2 0 x3_im_a2 1.1732717291200519e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.0418876116918662e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 6.333423171167946e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 4.296506716773412e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.6680631417512316e-09
.ENDS s_equivalent
