* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 2.936646256793465
Fd1_1 0 s1 V1 146.83231283967325
Gr1_1_1 0 s1 x1_a1 0 -43529595512640.1
Gr2_re_1_1 0 s1 x2_re_a1 0 1058010137964.4989
Gr2_im_1_1 0 s1 x2_im_a1 0 874668096461.3759
Gr3_re_1_1 0 s1 x3_re_a1 0 -350688648282.86523
Gr3_im_1_1 0 s1 x3_im_a1 0 691277616616.6461
Gr4_re_1_1 0 s1 x4_re_a1 0 -365601320166407.5
Gr4_im_1_1 0 s1 x4_im_a1 0 -167941429087817.84
Gr5_re_1_1 0 s1 x5_re_a1 0 31476418968458.195
Gr5_im_1_1 0 s1 x5_im_a1 0 124278625108375.72
Gr6_re_1_1 0 s1 x6_re_a1 0 6309034755691.284
Gr6_im_1_1 0 s1 x6_im_a1 0 4116626707129.159
Gr7_1_1 0 s1 x7_a1 0 -2.702571074166844e+16
Gr8_1_1 0 s1 x8_a1 0 2.118124904016318e+16
Gr9_re_1_1 0 s1 x9_re_a1 0 2980229727926579.0
Gr9_im_1_1 0 s1 x9_im_a1 0 -1.7618144553750244e+16
Gr10_1_1 0 s1 x10_a1 0 748268846873222.1
Gr11_1_1 0 s1 x11_a1 0 -206934435005841.38
Gr12_1_1 0 s1 x12_a1 0 -1274427848145329.2
Gr13_1_1 0 s1 x13_a1 0 1302395131527197.2
Gr14_1_1 0 s1 x14_a1 0 6988384737075.937
Gr15_1_1 0 s1 x15_a1 0 -71066359921615.77
Gr16_1_1 0 s1 x16_a1 0 206841721085.4918
Gr17_1_1 0 s1 x17_a1 0 -5553938943967.291
Gr18_1_1 0 s1 x18_a1 0 75050623810985.25
Gd1_2 0 s1 p2 0 2.3642984908231495
Fd1_2 0 s1 V2 118.21492454115749
Gr1_1_2 0 s1 x1_a2 0 -34510942150520.965
Gr2_re_1_2 0 s1 x2_re_a2 0 830425231969.9296
Gr2_im_1_2 0 s1 x2_im_a2 0 634489756667.6617
Gr3_re_1_2 0 s1 x3_re_a2 0 -268269565616.58902
Gr3_im_1_2 0 s1 x3_im_a2 0 527189573204.8902
Gr4_re_1_2 0 s1 x4_re_a2 0 -285453701191185.6
Gr4_im_1_2 0 s1 x4_im_a2 0 -130043286231881.73
Gr5_re_1_2 0 s1 x5_re_a2 0 24442486975849.645
Gr5_im_1_2 0 s1 x5_im_a2 0 96503724549349.89
Gr6_re_1_2 0 s1 x6_re_a2 0 4888196111809.132
Gr6_im_1_2 0 s1 x6_im_a2 0 3249952501537.49
Gr7_1_2 0 s1 x7_a2 0 -2.107453752488074e+16
Gr8_1_2 0 s1 x8_a2 0 1.6538726661673128e+16
Gr9_re_1_2 0 s1 x9_re_a2 0 2314864574789969.0
Gr9_im_1_2 0 s1 x9_im_a2 0 -1.3750447001990208e+16
Gr10_1_2 0 s1 x10_a2 0 579906047123579.2
Gr11_1_2 0 s1 x11_a2 0 -157847656326408.16
Gr12_1_2 0 s1 x12_a2 0 -977624211415764.0
Gr13_1_2 0 s1 x13_a2 0 997573808915429.6
Gr14_1_2 0 s1 x14_a2 0 5265648906690.089
Gr15_1_2 0 s1 x15_a2 0 -53046206219732.4
Gr16_1_2 0 s1 x16_a2 0 154372402219.40073
Gr17_1_2 0 s1 x17_a2 0 -4142663249405.9067
Gr18_1_2 0 s1 x18_a2 0 56014299418594.26
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.2056777374869242e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.2323865373617324e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 18578048889.746628
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -18578048889.746628
Rp2_im_im_a1 0 x2_im_a1 1.2323865373617324e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.8609070234313965e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 14446942047.376902
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -14446942047.376902
Rp3_im_im_a1 0 x3_im_a1 1.8609070234313965e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 8.40859329417503e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 8391072372.546302
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -8391072372.546302
Rp4_im_im_a1 0 x4_im_a1 8.40859329417503e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.1495654054902619e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 9723757238.193563
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -9723757238.193563
Rp5_im_im_a1 0 x5_im_a1 1.1495654054902619e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.8363720671944815e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 8548835280.795287
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -8548835280.795287
Rp6_im_im_a1 0 x6_im_a1 1.8363720671944815e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.6730510119929588e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.3048319441883057e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.5468527323621178e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 905798359.0960888
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -905798359.0960888
Rp9_im_im_a1 0 x9_im_a1 1.5468527323621178e-10
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 2.745483386701238e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 5.55060345564684e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 4.4186282576381386e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 4.69960120839176e-10
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 9.348283417231177e-10
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 1.7705033824051558e-09
Cx16_a1 x16_a1 0 1.0
Gx16_a1 0 x16_a1 p1 0 0.07071067811865475
Fx16_a1 0 x16_a1 V1 3.5355339059327378
Rp16_a1 0 x16_a1 2.6950639597339864e-09
Cx17_a1 x17_a1 0 1.0
Gx17_a1 0 x17_a1 p1 0 0.07071067811865475
Fx17_a1 0 x17_a1 V1 3.5355339059327378
Rp17_a1 0 x17_a1 2.0592915710170736e-09
Cx18_a1 x18_a1 0 1.0
Gx18_a1 0 x18_a1 p1 0 0.07071067811865475
Fx18_a1 0 x18_a1 V1 3.5355339059327378
Rp18_a1 0 x18_a1 1.798120852583977e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 2.3642984908231495
Fd2_1 0 s2 V1 118.21492454115749
Gr1_2_1 0 s2 x1_a1 0 -34510942152227.363
Gr2_re_2_1 0 s2 x2_re_a1 0 830425231899.0518
Gr2_im_2_1 0 s2 x2_im_a1 0 634489756767.659
Gr3_re_2_1 0 s2 x3_re_a1 0 -268269565724.3024
Gr3_im_2_1 0 s2 x3_im_a1 0 527189573146.34033
Gr4_re_2_1 0 s2 x4_re_a1 0 -285453701216473.75
Gr4_im_2_1 0 s2 x4_im_a1 0 -130043286286197.19
Gr5_re_2_1 0 s2 x5_re_a1 0 24442486960768.94
Gr5_im_2_1 0 s2 x5_im_a1 0 96503724566527.47
Gr6_re_2_1 0 s2 x6_re_a1 0 4888196111651.985
Gr6_im_2_1 0 s2 x6_im_a1 0 3249952503486.961
Gr7_2_1 0 s2 x7_a1 0 -2.1074537534139468e+16
Gr8_2_1 0 s2 x8_a1 0 1.6538726667534368e+16
Gr9_re_2_1 0 s2 x9_re_a1 0 2314864576397296.5
Gr9_im_2_1 0 s2 x9_im_a1 0 -1.3750447007474502e+16
Gr10_2_1 0 s2 x10_a1 0 579906047487305.5
Gr11_2_1 0 s2 x11_a1 0 -157847656469450.22
Gr12_2_1 0 s2 x12_a1 0 -977624212213943.1
Gr13_2_1 0 s2 x13_a1 0 997573809754266.4
Gr14_2_1 0 s2 x14_a1 0 5265648912476.181
Gr15_2_1 0 s2 x15_a1 0 -53046206288483.805
Gr16_2_1 0 s2 x16_a1 0 154372402437.00323
Gr17_2_1 0 s2 x17_a1 0 -4142663254947.102
Gr18_2_1 0 s2 x18_a1 0 56014299491433.98
Gd2_2 0 s2 p2 0 2.9360919903632303
Fd2_2 0 s2 V2 146.80459951816152
Gr1_2_2 0 s2 x1_a2 0 -43521541747926.125
Gr2_re_2_2 0 s2 x2_re_a2 0 1057801264761.5427
Gr2_im_2_2 0 s2 x2_im_a2 0 874525786467.16
Gr3_re_2_2 0 s2 x3_re_a2 0 -350640263039.14465
Gr3_im_2_2 0 s2 x3_im_a2 0 691143563608.593
Gr4_re_2_2 0 s2 x4_re_a2 0 -365536058210218.0
Gr4_im_2_2 0 s2 x4_im_a2 0 -167914940425352.75
Gr5_re_2_2 0 s2 x5_re_a2 0 31469472192648.105
Gr5_im_2_2 0 s2 x5_im_a2 0 124257595762451.25
Gr6_re_2_2 0 s2 x6_re_a2 0 6307948474161.976
Gr6_im_2_2 0 s2 x6_im_a2 0 4116042834077.6704
Gr7_2_2 0 s2 x7_a2 0 -2.7021152431789588e+16
Gr8_2_2 0 s2 x8_a2 0 2.117765717569741e+16
Gr9_re_2_2 0 s2 x9_re_a2 0 2979734465232103.0
Gr9_im_2_2 0 s2 x9_im_a2 0 -1.761516951906996e+16
Gr10_2_2 0 s2 x10_a2 0 748142791758203.9
Gr11_2_2 0 s2 x11_a2 0 -206899661343612.06
Gr12_2_2 0 s2 x12_a2 0 -1274213181741443.5
Gr13_2_2 0 s2 x13_a2 0 1302175854879440.2
Gr14_2_2 0 s2 x14_a2 0 6987223222813.772
Gr15_2_2 0 s2 x15_a2 0 -71054626431485.92
Gr16_2_2 0 s2 x16_a2 0 206807072474.7548
Gr17_2_2 0 s2 x17_a2 0 -5553019227712.032
Gr18_2_2 0 s2 x18_a2 0 75038230031459.05
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.2056777374869242e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.2323865373617324e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 18578048889.746628
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -18578048889.746628
Rp2_im_im_a2 0 x2_im_a2 1.2323865373617324e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.8609070234313965e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 14446942047.376902
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -14446942047.376902
Rp3_im_im_a2 0 x3_im_a2 1.8609070234313965e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 8.40859329417503e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 8391072372.546302
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -8391072372.546302
Rp4_im_im_a2 0 x4_im_a2 8.40859329417503e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.1495654054902619e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 9723757238.193563
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -9723757238.193563
Rp5_im_im_a2 0 x5_im_a2 1.1495654054902619e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.8363720671944815e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 8548835280.795287
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -8548835280.795287
Rp6_im_im_a2 0 x6_im_a2 1.8363720671944815e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.6730510119929588e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.3048319441883057e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.5468527323621178e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 905798359.0960888
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -905798359.0960888
Rp9_im_im_a2 0 x9_im_a2 1.5468527323621178e-10
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 2.745483386701238e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 5.55060345564684e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 4.4186282576381386e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 4.69960120839176e-10
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 9.348283417231177e-10
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 1.7705033824051558e-09
Cx16_a2 x16_a2 0 1.0
Gx16_a2 0 x16_a2 p2 0 0.07071067811865475
Fx16_a2 0 x16_a2 V2 3.5355339059327378
Rp16_a2 0 x16_a2 2.6950639597339864e-09
Cx17_a2 x17_a2 0 1.0
Gx17_a2 0 x17_a2 p2 0 0.07071067811865475
Fx17_a2 0 x17_a2 V2 3.5355339059327378
Rp17_a2 0 x17_a2 2.0592915710170736e-09
Cx18_a2 x18_a2 0 1.0
Gx18_a2 0 x18_a2 p2 0 0.07071067811865475
Fx18_a2 0 x18_a2 V2 3.5355339059327378
Rp18_a2 0 x18_a2 1.798120852583977e-09
.ENDS s_equivalent
