* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.00016581217535504712
Fd1_1 0 s1 V1 0.008290608767752356
Gr1_re_1_1 0 s1 x1_re_a1 0 -481076321.59781724
Gr1_im_1_1 0 s1 x1_im_a1 0 55485429.44168124
Gr2_re_1_1 0 s1 x2_re_a1 0 -999125.3876476424
Gr2_im_1_1 0 s1 x2_im_a1 0 -2759743.546222991
Gr3_re_1_1 0 s1 x3_re_a1 0 -28868996.333040856
Gr3_im_1_1 0 s1 x3_im_a1 0 343237440.4660475
Gr4_re_1_1 0 s1 x4_re_a1 0 731693381.6760246
Gr4_im_1_1 0 s1 x4_im_a1 0 506564736.12740004
Gd1_2 0 s1 p2 0 0.0010090977166440339
Fd1_2 0 s1 V2 0.050454885832201694
Gr1_re_1_2 0 s1 x1_re_a2 0 -97397878.22994372
Gr1_im_1_2 0 s1 x1_im_a2 0 823741429.9484565
Gr2_re_1_2 0 s1 x2_re_a2 0 93789347.43724549
Gr2_im_1_2 0 s1 x2_im_a2 0 -74524921.71377261
Gr3_re_1_2 0 s1 x3_re_a2 0 -215787056.0911984
Gr3_im_1_2 0 s1 x3_im_a2 0 847269009.3629583
Gr4_re_1_2 0 s1 x4_re_a2 0 -195053820.24358243
Gr4_im_1_2 0 s1 x4_im_a2 0 -3800591349.991576
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.2210132134078226e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 14446349125.692986
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -14446349125.692986
Rp1_im_im_a1 0 x1_im_a1 1.2210132134078226e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 8.059868252343117e-09
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 13289442335.866043
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -13289442335.866043
Rp2_im_im_a1 0 x2_im_a1 8.059868252343117e-09
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.461057071730976e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 10566368580.26694
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -10566368580.26694
Rp3_im_im_a1 0 x3_im_a1 2.461057071730976e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.5320336234332254e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 4102178369.9425793
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -4102178369.9425793
Rp4_im_im_a1 0 x4_im_a1 1.5320336234332254e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0010090977166440339
Fd2_1 0 s2 V1 0.050454885832201694
Gr1_re_2_1 0 s2 x1_re_a1 0 -97397878.22994372
Gr1_im_2_1 0 s2 x1_im_a1 0 823741429.9484565
Gr2_re_2_1 0 s2 x2_re_a1 0 93789347.43724549
Gr2_im_2_1 0 s2 x2_im_a1 0 -74524921.71377261
Gr3_re_2_1 0 s2 x3_re_a1 0 -215787056.0911984
Gr3_im_2_1 0 s2 x3_im_a1 0 847269009.3629583
Gr4_re_2_1 0 s2 x4_re_a1 0 -195053820.24358243
Gr4_im_2_1 0 s2 x4_im_a1 0 -3800591349.991576
Gd2_2 0 s2 p2 0 0.00017549668186049268
Fd2_2 0 s2 V2 0.008774834093024635
Gr1_re_2_2 0 s2 x1_re_a2 0 -478460352.18414426
Gr1_im_2_2 0 s2 x1_im_a2 0 60350685.56156857
Gr2_re_2_2 0 s2 x2_re_a2 0 62775.69716839877
Gr2_im_2_2 0 s2 x2_im_a2 0 -3299698.738299201
Gr3_re_2_2 0 s2 x3_re_a2 0 -34290501.0893683
Gr3_im_2_2 0 s2 x3_im_a2 0 340777797.54262537
Gr4_re_2_2 0 s2 x4_re_a2 0 732312258.256749
Gr4_im_2_2 0 s2 x4_im_a2 0 508358768.30127096
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.2210132134078226e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 14446349125.692986
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -14446349125.692986
Rp1_im_im_a2 0 x1_im_a2 1.2210132134078226e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 8.059868252343117e-09
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 13289442335.866043
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -13289442335.866043
Rp2_im_im_a2 0 x2_im_a2 8.059868252343117e-09
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.461057071730976e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 10566368580.26694
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -10566368580.26694
Rp3_im_im_a2 0 x3_im_a2 2.461057071730976e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.5320336234332254e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 4102178369.9425793
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -4102178369.9425793
Rp4_im_im_a2 0 x4_im_a2 1.5320336234332254e-10
.ENDS s_equivalent
